Name:  ___                Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: SURGERY
 
Allergies: 
Demerol / morphine / Phenergan / promethazine / Reglan / Zofran 
(as hydrochloride) / Atarax / meclizine / adhesive base tape  / 
Tegaderm / gluten / peanuts / FODMAP ( high fodmap foods) / 
Hibiclens
 
Attending: ___.
 
Chief Complaint:
GI dysmotility and hanging skin from prior weight loss
 
Major Surgical or Invasive Procedure:
With Dr. ___:

1. Adominal colectomy and ileostomy repair of parastomal
    hernia.
2. Placement of parastomal mesh.

With Dr. ___:
Circumferential body lift with re-siting of stoma
from a colostomy to an ileostomy.

 
History of Present Illness:
___ year old female with PMH significant for peripheral/sensory 
neuropathy w urinary self-cath at baseline, pan-GI motility 
disorder with hanging skin related to wieght loss who has been 
followed by both Dr. ___ Dr. ___. She has an extensive 
prior GI surgical history as well including a Panniculectomy and 
re-siting of colostomy at an outside hospital in and attempt to 
make pouching easier, however this was not successful. The skin 
folds on her abdomen have made it very difficult for the patient 
to keep her ostomy appliance in place. She The patient was seen 
in clinic and discussed and consented. 
 
Past Medical History:
PMH: peripheral/sensory neuropathy w urinary self-cath at  
baseline, pan-GI motility disorder, raynaud's  
PSH: diverting ileostomy (___), Takedown of ileostomy (___),  
End sigmoid colostomy (___), Ex lap, end sigmoid colostomy  
revision (___), Open repair parastomal hernia w  
Permacol mesh (___), Lap-assisted parastomal hernia 
 
repair w open revision of colostomy (___),  
Panniculectomy and re-siting of colostomy  
(___)  

 
Social History:
Married, supportive husband, involved mother, has therapy dog at 
home
 
Physical Exam:
At discharge:

General: Doing well, tolerating a regular diet, ambulating, 
caring for stoma, foley catheter in place
VSS
Neuro: A&OX3
Cardio/Pulm: RRR, no shortness of breath
Abd: horizontal incision around torso closed with dermabond, 
small open area to left of ostomy open and packed with packing 
strip w scant serous drainage, left and rigth JP drains intact 
with scant serous output, the right sided ileostomy is pink with 
liquid green stool output
GU: foley catheter in place and drainaing clear yellow urine
___: no lower extremity edema
 
Pertinent Results:
___ 07:03AM BLOOD WBC-6.1 RBC-3.08*# Hgb-9.7*# Hct-29.1*# 
MCV-95 MCH-31.5 MCHC-33.3 RDW-12.6 RDWSD-43.6 Plt ___
___ 06:47AM BLOOD WBC-4.7 RBC-2.37* Hgb-7.5* Hct-22.3* 
MCV-94 MCH-31.6 MCHC-33.6 RDW-12.4 RDWSD-42.5 Plt ___
___ 05:16AM BLOOD WBC-5.0# RBC-2.39* Hgb-7.7* Hct-22.7* 
MCV-95 MCH-32.2* MCHC-33.9 RDW-12.5 RDWSD-43.5 Plt ___
___ 07:01AM BLOOD WBC-11.7*# RBC-3.04*# Hgb-10.1*# 
Hct-27.5* MCV-90 MCH-33.1* MCHC-36.6* RDW-12.8 Plt ___
___ 06:14PM BLOOD Hct-32.8*
___ 05:16AM BLOOD Glucose-77 UreaN-5* Creat-0.4 Na-135 
K-3.5 Cl-103 HCO3-22 AnGap-14
___ 07:01AM BLOOD Glucose-104* UreaN-10 Creat-0.6 Na-141 
K-4.0 Cl-109* HCO3-25 AnGap-11
___ 06:14PM BLOOD Na-141 K-3.7 Cl-111*
___ 05:16AM BLOOD Calcium-7.5* Phos-2.7 Mg-1.6
___ 07:01AM BLOOD Calcium-8.5 Phos-3.7 Mg-1.6
___ 06:14PM BLOOD Mg-1.5*
 
Brief Hospital Course:
___ was admitted to the inpatient colorectal 
surgery service. She did quite well after surgery. She was 
followed closely by Dr. ___ the ___ Surgery Service 
as well. She was initially treated for post-surgical pain with a 
Dilaudid PCA and nonnarctotic medications. She was changed to a 
morphine PCA related to itching. Her home dosing of gabapentin 
was restarted. On ___ she was advanced to clears. She had 
ileostomy output and met with the wound/ostomy nursing staff. On 
___ she was advanced to regular diet. She unfortunately 
reported worsening abdominal pain and Tylenol was added with 
good effect. On  ___ Toradol re-ordered for better pain 
control. Unfortunately, On ___ the patient's roommate was 
ery ill and the patient was a bit traumatized by this 
occurrence, she was offered emotional support from the nursing 
staff, surgical staff, social work and patient relations. She 
follows a low FODMAP diet at home and a nutrition consult was 
ordered for dietary restriction, the kitchen staff really made a 
good effort to accommodate the patient's dietary needs. On 
___ Pus was expressed from anterior midline portion of 
wound and this was packed with a wick by Plastic Surgery and she 
was started on Ancef for wound infection. The area was small to 
3 o'clock from the ileostomy, the remaining portion of the 
incision was monitored closely for infection. The PCA was 
discontinued and transitioned to liquids oxycodone and liquid 
nonnarcotic given her inability to tolerate tablets. The patient 
reported feeling insufficient pain relief from Oxycodone and 
given her multiple drug allergies, the Chronic Pain Service was 
consulted. CPS recommended adjusting her home gabapentin dosing 
and adding liquid Dilaudid as well as Cymbalta 20mg twice daily 
for her chronic neuropathy. Her pain control was much improved. 
The patient was doing quite well, she was tolerating a regular 
diet and the ileotomy output remained borderline high. 
Throughout her admission, she frequently visited with her home 
therapy dog and her supportive husband and mother. She used her 
home exercise bike for her neuropathy throughout her stay. A 
Foley catheter was placed at the time of surgery and remained in 
place during her inpatient stay as she self cath at home and had 
a moderate amount of pain preventing her from being able to 
straight cath in the hospital. At the time of discharge, the 
patient preferred to go home with a Foley however, decided to 
have it removed and teach her mother to assist in her home 
straight cathing. However, the ___ was uncomfortable with this 
and a compromise was reached were she would return home 
overnight with the Foley catheter in place to have the ___ 
instruct the mother in straight catheterization and then remove 
the Foley catheter at home. She was discharged home in the care 
of her family.   

 
Medications on Admission:
gabapentin 300 mg (3 in am, 2 in pm, 3 at night), MVI, oxycodone 
 
10 ml by mouth every four (4) hours as needed for pain  
turmeric', calcium-magnesium-zinc 33 mg-133 mg-5 mg', vitamin D3 
4,000 unit', flaxseed oil 1,000 mg', omega-3 fatty acids-fish 
oil  
360 mg-1,200 mg', polyethylene glycol 3350 [PEG3350] 1 cap in 
tea powder(s) by mouth 16x day since childhood, Florastor 250''  


 
Discharge Medications:
1. Acetaminophen 1000 mg PO Q8H 
do not take more than 3000mg of tylenol in 24 hours or drink 
alcohol while taking this medication 
RX *acetaminophen 500 mg/5 mL 1000 mg by mouth every eight (8) 
hours Disp #*300 Milliliter Refills:*0
2. Cephalexin 500 mg PO Q6H Duration: 5 Days 
please take until ___ 
RX *cephalexin 500 mg 1 capsule(s) by mouth every six (6) hours 
Disp #*14 Capsule Refills:*0
3. Duloxetine 20 mg PO BID 
RX *duloxetine 20 mg 1 capsule(s) by mouth twice a day Disp #*28 
Capsule Refills:*0
4. Gabapentin 900 mg PO BID 
Please see dosing change recommended by chronic pain 
5. Gabapentin 600 mg PO BID 
please see the dosing change for this medication 
6. HYDROmorphone (Dilaudid) ___ mg PO Q4H:PRN pain 
ok to crush this medication 
RX *hydromorphone 1 mg/mL 4 ml by mouth every four (4) hours 
Disp #*240 Milliliter Refills:*0
7. Ibuprofen Suspension 400 mg PO Q8H:PRN pain Duration: 7 Days 
take this medication with food 
RX *ibuprofen 100 mg/5 mL 20 ml by mouth every eight (8) hours 
Refills:*0

 
Discharge Disposition:
Home With Service
 
Facility:
___
 
Discharge Diagnosis:
1. Colonic dysmotility.
2. Malfunctioning stoma.
3. Parastomal hernia.

hanging abdominal skin, hanging flank skin and back skin.

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
___ were admitted to the hospital after a total abdominal 
colectomy and ileostomy placement as well as a total body lift 
with plastic surgery. ___ were also seen by chronic pain during 
your stay who adjusted some of your pain medicaitons. ___ have 
recovered from this procedure well and ___ are now ready to 
return home. ___ have tolerated a regular diet, are passing gas 
and your pain is controlled with pain medications by mouth. ___ 
may return home to finish your recovery.
Please monitor your bowel function closely. If ___ have any of 
the following symptoms please call the office for advice or go 
to the emergency room if severe: increasing abdominal 
distension, increasing abdominal pain, nausea, vomiting, 
inability to tolerate food or liquids, prolonged loose stool, or 
extended constipation.

___ have a new ileostomy. The most common complication from a 
new ileostomy placement is dehydration. The output from the 
stoma is stool from the small intestine and the water content is 
very high. The stool is no longer passing through the large 
intestine which is where the water from the stool is reabsorbed 
into the body and the stool becomes formed. ___ must measure 
your ileostomy output for the next few weeks. The output from 
the stoma should not be more than 1200cc or less than 500cc. If 
___ find that your output has become too much or too little, 
please call the office for advice. The office nurse or nurse 
practitioner can recommend medications to increase or slow the 
ileostomy output. Keep yourself well hydrated, if ___ notice 
your ileostomy output increasing, take in more electrolyte drink 
such as Gatorade. Please monitor yourself for signs and symptoms 
of dehydration including: dizziness (especially upon standing), 
weakness, dry mouth, headache, or fatigue. If ___ notice these 
symptoms please call the office or return to the emergency room 
for evaluation if these symptoms are severe. ___ may eat a 
regular diet with your new ileostomy. However it is a good idea 
to avoid fatty or spicy foods and follow diet suggestions made 
to ___ by the ostomy nurses.  
 
Please monitor the appearance of the ostomy and stoma and care 
for it as instructed by the wound/ostomy nurses. ___ stoma 
(intestine that protrudes outside of your abdomen) should be 
beefy red or pink, it may ooze small amounts of blood at times 
when touched and this should subside with time. The skin around 
the ostomy site should be kept clean and intact. Monitor the 
skin around the stoma for bulging or signs of infection listed 
above. Please care for the ostomy as ___ have been instructed by 
the wound/ostomy nurses. ___ will be able to make an appointment 
with the ostomy nurse in the clinic 7 days after surgery. ___ 
will have a visiting nurse at home for the next few weeks 
helping to monitor your ostomy until ___ are comfortable caring 
for it on your own.  

___ have an incision around your abdomen and back that is closed 
with dermabond. There is a small section that packed with a wick 
which needs to be changed once daily. Please monitor the 
incision for increasing redness and drainage and increased pain. 
if the incision opens please call the office. ___ will go home 
with two drains in place, please record the output of these 
drains. If the drains put out more than 100cc in 24 hours please 
call Dr. ___. If there is bright red blood in the JP drain 
please call dr ___. If there is white/green/grey drainge 
around the JP drain please call Dr. ___. Cleanse around the 
JP with sterile normal saline daily and apply new dry sterile 
gauze dressing and secure with paper tape. It is ok to shower 
with the drain in place. Pat the incision dry with a gauze or 
clean towel after the shower. 

___ will be prescribed a small amount of the pain medication 
Dilaudid. Please take this medication exactly as prescribed. ___ 
may take Tylenol as recommended for pain. Please do not take 
more than 3000mg of Tylenol daily. ___ can also take ibuprofen 
liquid for pain, please take this with food, ___ should not take 
for longer than 7 days. Do not drink alcohol while taking 
narcotic pain medication or Tylenol. Please do not drive a car 
while taking narcotic pain medication. ___ were started on an 
SSRI medication called cymbalta which is an antidepressant used 
to treat neuropathic pain. ___ will take this twice daily. ___ 
will leave the hospital with 2 weeks worth of this medication, 
however, ___ need to see your primary care provider at the 
appointment listed below fo a refill of this medication. It is 
important that ___ get a refill and do not stop this medication 
abruptly. Please keep this appointment. Please take note of the 
dosing changed of your gabapentin. 

___ are going to go home with a foley catheter until the ___ can 
instruct your mother to help with your home straight cathing. 
Please call our office if ___ have any of the following 
symptoms: increased lower abdominal pain, pain or burning around 
the catheter, bloody urine, cloudy urine, or if there is 
suddenly no urine in the catheter tubing. Please call with any 
problems. 

___ would like your mom to do the straight cathing at home and 
have the foley removed before discharge. Please call the ___ or 
your primary care if there is issues with this. If no responce, 
please call our office.
 
No heavy lifting greater than 6 lbs for until your first 
post-operative visit after surgery. Please no strenuous activity 
until this time unless instructed otherwise by Dr. ___ Dr. 
___.  
 
Thank ___ for allowing us to participate in your care! Our hope 
is that ___ will have a quick return to your life and usual 
activities. Good luck!  

 
Followup Instructions:
___